US05864039
Methylene chloride (1000 ml) was added to (1-benzylpyrrolidin-3-ylmethyl)amine (112 g), and a solution of di-tert-butyl dicarbonate (141 g) in methylene chloride was dropwise added at 0° C. with stirring. The mixture was stirred at room temperature for 8 hr. Aqueous potassium carbonate solution was added and the mixture was extracted with chloroform. The mixture dried over magnesium sulfate, and concentrated under reduced pressure to give 171 g of 1-benzyl-3-(tert-butoxycarbonylaminomethyl)pyrrolidine.

reactant | (1-benzylpyrrolidin-3-ylmethyl)amine | 112 g | C(C1=CC=CC=C1)N1CC(CC1)CN | C12H18N2
reactant | di-tert-butyl dicarbonate | 141 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | Methylene chloride | 1000 ml | C(Cl)Cl | CH2Cl2
product | 1-benzyl-3-(tert-butoxycarbonylaminomethyl)pyrrolidine | 171 g | C(C1=CC=CC=C1)N1CC(CC1)CNC(=O)OC(C)(C)C | C17H26N2O2
